US08383639B2
3-(Benzyloxy)-2-(5-(4-fluorobenzyl)thiazol-2-yl)-9,9-dimethyl-6,7-dihydropyrimido[2,1-c][1,4]oxazin-4(9H)-one.
A solution of 3-(benzyloxy)-N-(3-(4-fluorophenyl)-2-oxopropyl)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamide: (0.12 g, 0.25 mmol) and Lawesson's reagent (0.11 g, 0.275 mmol) in toluene (10 mL) was stirred 15 min at room temperature, 30 min at 60° C. and 2 h at 100° C. The mixture was cooled, concentrated and purified by preparative HPLC on a C18 column using water/MeOH containing 0.1% TFA as eluent to afford the title compound (0.05 g, 43% yield) as a yellow solid. 1HNMR (500 MHz, CDCl3) δ: 7.78 (1H, s), 7.54-7.51 (2H, m), 7.32-7.29 (3H, m), 7.19 (2H, dd, J=8.6, 5.2 Hz), 7.01 (2H, t, J=8.6 Hz), 5.35 (2H, s), 4.15 (2H, s), 4.06-4.00 (4H, m), 1.66 (6H, s). HRMS (M+H) calcd for C26H25N3O3FS: 478.1601. found: 478.1623.

reactant | 3-(benzyloxy)-N-(3-(4-fluorophenyl)-2-oxopropyl)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamide | C(C1=CC=CC=C1)OC1=C(N=C2C(OCCN2C1=O)(C)C)C(=O)NCC(CC1=CC=C(C=C1)F)=O | C26H26FN3O5
reactant | Lawesson's reagent | 0.275 mmol, 0.11 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 3-(Benzyloxy)-2-(5-(4-fluorobenzyl)thiazol-2-yl)-9,9-dimethyl-6,7-dihydropyrimido[2,1-c][1,4]oxazin-4(9H)-one | 0.05 g, 43% yield | C(C1=CC=CC=C1)OC1=C(N=C2C(OCCN2C1=O)(C)C)C=1SC(=CN1)CC1=CC=C(C=C1)F | C26H24FN3O3S
